US06013764
Boc-Lys(Z)-Leu-Leu-OH
Boc-Lys(Z)-Leu-Leu-OMe (12.0 g, 19.33 mmol) was dissolved in acetone (41.0 g, 52 mL) at 22-23° C. A solution of NaOH (1.94 g, 48.5 mmol) in water (18.0 g) was added over 5 min. After stirring for 40 min., the reaction was quenched with a solution of citric acid (10.2 g, 53.0 mmol) in water (18.0 g). The acetone was removed on a rotary evaporator at 40° C. The remaining mixture was extracted with ethyl acetate (2×65 mL). The EtOAc extract was washed with water (50 g) then with aqueous saturated sodium chloride solution (50 g). The EtOAc extract was dried over anhydrous MgSO4 (10 g). The EtOAc solution was filtered and diluted with DMF (40 g). The ethyl acetate was evaporated at 40° C. under reduced pressure to give the solution of the product in DMF. Weight of solution ~52 g.

reactant | Boc-Lys(Z)-Leu-Leu-OMe | 19.33 mmol, 12.0 g | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OC(C)(C)C | C32H52N4O8
reactant | NaOH | 48.5 mmol, 1.94 g | [OH-].[Na+]
reactant | citric acid | 53.0 mmol, 10.2 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | acetone | 52 mL, 41.0 g | CC(=O)C | C3H6O
solvent | water | 18.0 g | O | H2O
solvent | water | 18.0 g | O | H2O
product | Boc-Lys(Z)-Leu-Leu-OH | N([C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C31H50N4O8
